US04075001
A stirred mixture of 10.5 g of 1-methyl-3-(4-cyano-3-(1-pyrrolidinyl)-5-isothiazolyl)urea and 15 ml of sulfuric acid was heated at 100° during 21/2 hours. The mixture was poured into 250 ml of stirred ice-water and neutralized by slow addition of saturated sodium bicarbonate solution. The separated solid was collected by filtration. The filtrate was allowed to stand for a short time, and filtered again. The collected solid was found to be a mixture of the desired product and unreacted starting material. A third solid that formed when the filtrate was allowed to stand overnight was isolated by filtration to give 4.6 g of 1-methyl-3-(4-carbamoyl-3-(1-pyrrolidinyl)-5-isothiazolyl)urea, which darkened at 241°, then decomposed at 257°. The nmr spectrum was consistent with the assigned structure.

reactant | 1-methyl-3-(4-cyano-3-(1-pyrrolidinyl)-5-isothiazolyl)urea | 10.5 g | CNC(=O)NC1=C(C(=NS1)N1CCCC1)C#N | C10H13N5OS
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-methyl-3-(4-carbamoyl-3-(1-pyrrolidinyl)-5-isothiazolyl)urea | 4.6 g | CNC(=O)NC1=C(C(=NS1)N1CCCC1)C(N)=O | C10H15N5O2S
